US07572848B2
A 2-liter flask fitted with a thermocouple, overhead stirrer, dropping funnel and heating mantle was charged with C4F9SO2F (543 g, 1.80 mole). To this stirred material was slowly added a mixture of hexylamine (194.0 g, 1.90 mole) and triethylamine (194.0 g, 1.90 mole); the ensuing mixture was stirred and heated at 65° C. for 2 hours. Water (555.0 g) was then added, and stirred for an additional 30 minutes. The lower phase was separated, put into a flask and heated to 60° C. To this heated mixture was added sulfuric acid (50 g concentrated sulfuric and 500 g water). The lower phase of the resulting two-phase mixture was then separated, washed with water (500 g), and placed in a flask with a one-plate distillation head. The flask was heated to 80° C. at 20-25 mm Hg (2.7-3.3 kPa) and the distillate collected over a period of one hour. The material that remained in the flask was further distilled at 8 mm Hg (0.4 kPa) and a pot temperature of 138-143° C., yielding C4F9SO2NH(CH2)5CH3 (561.0 g). NMR and GC/MS analyses were consistent with the indicated material.

reactant | C4F9SO2F | 1.80 mole, 543 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)F | C4F10O2S
reactant | hexylamine | 1.90 mole, 194.0 g | C(CCCCC)N | C6H15N
reactant | triethylamine | 1.90 mole, 194.0 g | C(C)N(CC)CC | C6H15N
solvent | Water | 555.0 g | O | H2O
product | C4F9SO2NH(CH2)5CH3 | 561.0 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NCCCCCC | C10H14F9NO2S
